US08084448B2
G. 7-(4-Amino-3-benzyloxybenzyl)-azepan-2-one
To a solution of 7-(3-benzyloxy-4-nitrobenzyl)-azepan-2-one (600 mg, 1.7 mmol) in EtOAc (20 mL) is added tin (II) chloride dihydrate. The mixture is stirred at RT for 18 h then water is added. The mixture is extracted with EtOAc and the organic phase is washed with water and brine. The solution is dried over sodium sulfate and the solvent removed under reduced pressure to give the title compound: (M+1)+=325.

reactant | 7-(3-benzyloxy-4-nitrobenzyl)-azepan-2-one | 1.7 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(CC2CCCCC(N2)=O)C=CC1[N+](=O)[O-] | C20H22N2O4
reactant | tin (II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | water | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 7-(4-Amino-3-benzyloxybenzyl)-azepan-2-one | NC1=C(C=C(CC2CCCCC(N2)=O)C=C1)OCC1=CC=CC=C1 | C20H24N2O2
